US05736548
To a mixture of water (500 ml) and 85% KOH (37.91 g) at 0° C. was added 30% H2O2 (49.4 ml, 483 mmol), followed by 1-tert-butyl-5-amino-1H-pyrazole-4-carbonitrile (15.83 g, 96.5 mmol). The reaction mixture was stirred for four hours at 0° C. and then at room temperature for 1 hour. A yellow precipitate had formed which was collected by filtration and air dried to afford 13.2 g (75%) of 1-tert-butyl-5-amino-1H-pyrazole-4-carboxamide, m.p. 193°-195° C.

reactant | KOH | 37.91 g | [OH-].[K+]
reactant | H2O2 | 483 mmol, 49.4 ml | OO | H2O2
reactant | 1-tert-butyl-5-amino-1H-pyrazole-4-carbonitrile | 96.5 mmol, 15.83 g | C(C)(C)(C)N1N=CC(=C1N)C#N | C8H12N4
solvent | water | 500 ml | O | H2O
product | 1-tert-butyl-5-amino-1H-pyrazole-4-carboxamide | 13.2 g, 75% | C(C)(C)(C)N1N=CC(=C1N)C(=O)N | C8H14N4O
